US03957763
Following the procedure of Example 1, 1-bromo-3-ethyl-4,7-dimethyl-2,6-octadiene and 7-hydroxy-chromane are reacted to form 7-(3-ethyl-4,7-dimethyl-2,6-octadienyloxy)-chromane, nD20 = 1.5286.

reactant | 1-bromo-3-ethyl-4,7-dimethyl-2,6-octadiene | BrCC=C(C(CC=C(C)C)C)CC | C12H21Br
reactant | 7-hydroxy-chromane | OC1=CC=C2CCCOC2=C1 | C9H10O2
product | 7-(3-ethyl-4,7-dimethyl-2,6-octadienyloxy)-chromane | C(C)C(=CCOC1=CC=C2CCCOC2=C1)C(CC=C(C)C)C | C21H30O2
